US04767882
To a solution of (R)-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene ([α]546 +2.2° (C=0.95 in ethanol)) (36.5 g; 0.159 mol) and acetyl chloride (13.7 g; 0.174 mol) in 1,2-dichloroethane (100 ml), anhydrous aluminum chloride (25.3 g; 0.190 mol) was added at 20° C., and the resulting mixture was stirred for 1 hour. The reaction mixture was treated with dilute hydrochloric acid while cooling with ice. The organic layer was washed with dilute hydrochloric acid, saturated sodium carbonate solution and saturated sodium chloride solution in order, dried over anhydrous sodium sulfate and concentrated t give (R)-7-acetyl-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (41.5 g; 0.153 mol; 96%). B.P., 120° C./0.1 mmHg. [α]365 -46.1° (C=0.97 in ethanol).

reactant | (R)-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.159 mol, 36.5 g | C(C)[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H26
reactant | acetyl chloride | 0.174 mol, 13.7 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.190 mol, 25.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | (R)-7-acetyl-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.153 mol, 41.5 g, 96% | C(C)(=O)C1=C(C=C2C([C@@H](CC(C2=C1)(C)C)CC)(C)C)C | C19H28O
